US05550121
To an ice-cooled solution of ethyl diethylphosphonoacetate (1.1 ml, 5.54 mmol) in tetrahydrofuran (10 ml) was added sodium hydride (60%, in oil suspension, 220 mg, 5.5 mmol) under a nitrogen atmosphere, and the mixture was stirred for 30 min at the same temperature. To the ice-cooled reaction mixture was added a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine (1.72 g, 5.01 mmol) in tetrahydrofuran (3 ml), and the mixture was stirred for 1 h. The reaction mixture was poured into a mixture of ice water (200 ml) and 1N aqueous potassium hydrogensulfate (20 ml), and extracted with ethyl acetate (3×50 ml). The combined organic layer was washed successively with water and saturated aqueous sodium chloride, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was subjected to silica gel column chromatography (heptane-ethyl acetate) to give (2R,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[(E)-3-ethoxycarbonylallyl]pyrrolidine (1.98 mg, yield: 96%).

reactant | ethyl diethylphosphonoacetate | 5.54 mmol, 1.1 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 5.5 mmol, 220 mg | [H-].[Na+]
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-(formylmethyl)pyrrolidine | 5.01 mmol, 1.72 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CC=O | C17H33NO4Si
reactant | potassium hydrogensulfate | 1N, 20 ml | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2R,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[(E)-3-ethoxycarbonylallyl]pyrrolidine | 1.98 mg, yield: 96% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C\C=C\C(=O)OCC | C21H39NO5Si
